US07705004B2
To a mixture of 2-Chloro-N-(1H-indazol-6-yl)-5-methyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.18 g, 0.4 mmol) and 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (0.22 g, 1 mmol) in n-butyl alcohol (2 mL) was added trimethylsilyl chloride (TMSCl) (0.026 mL, 0.2 mmol). After heating at 115° C. for 15 h, the mixture was purified by preparative HPLC to give 1-(4-(4-(4-(1H-indazol-6-ylamino)-5-methyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (0.045 g).

reactant | 2-Chloro-N-(1H-indazol-6-yl)-5-methyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.4 mmol, 0.18 g | ClC=1N=C(C2=C(N1)N(C=C2C)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C21H17ClN6O2S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 1 mmol, 0.22 g | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | trimethylsilyl chloride | 0.2 mmol, 0.026 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | n-butyl alcohol | 2 mL | C(CCC)O | C4H10O
product | 1-(4-(4-(4-(1H-indazol-6-ylamino)-5-methyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 0.045 g | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)N(C=C2C)S(=O)(=O)C2=CC=C(C)C=C2 | C33H33N9O3S
